US09193728B2
Preparation of 3-(4-fluorophenyl)-N-(propan-2-ylidene)-3,4-dihydroquinolin-1(2H)-amine
To a solution of 3-(4-fluorophenyl)-1-nitroso-1,2,3,4-tetrahydroquinoline (0.27 g, 0.00105 mol) in acetone (15 mL) was added saturated ammonium chloride solution (1.5 mL) and water (1.5 mL) at RT. The resulting brown colored reaction mixture was cooled to 0° C., and zinc dust (0.411 g, 0.00632 mol) was added portionwise at 0° C. After addition, the reaction mixture was warmed to RT and stirred for 2 h. After completion of reaction (monitored by TLC), the solvent was removed under reduced pressure and the residue extracted with EtOAc (3×100 mL). The organic layer was dried over anhydrous sodium sulfate and solvent was removed under reduced pressure to obtain product as a brown colored oil (0.28 g).

reactant | 3-(4-fluorophenyl)-1-nitroso-1,2,3,4-tetrahydroquinoline | 0.00105 mol, 0.27 g | FC1=CC=C(C=C1)C1CN(C2=CC=CC=C2C1)N=O | C15H13FN2O
reactant | ammonium chloride | 1.5 mL | [Cl-].[NH4+]
reactant | water | 1.5 mL | O | H2O
reactant | acetone | 15 mL | CC(=O)C | C3H6O
catalyst | zinc | 0.00632 mol, 0.411 g | [Zn] | Zn
product | 3-(4-fluorophenyl)-N-(propan-2-ylidene)-3,4-dihydroquinolin-1(2H)-amine | 0.28 g | FC1=CC=C(C=C1)C1CN(C2=CC=CC=C2C1)N=C(C)C | C18H19FN2
